US09388147B2
Prepared using General Procedure 9. To a solution of (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate INT-9 (3.0 g, 1.16 mmol) in DMF (20 mL) was added NaH (1.39 g of 60% dispersion in mineral oil, 34.8 mmol) at 0° C. with stirring for 3 h before the addition of 2-chloro-N,N-dimethylacetamide (2.82 g, 23.2 mmol). The reaction mixture was stirred at 0° C. for 0.5 h and then warmed to room temperature for 1 h. The reaction mixture was quenched with water (3 mL) slowly at 0° C. The mixture was partitioned between EA (3×20 mL) and water (50 mL). The combined organic layers were concentrated and purified by chromatography (DCM/MeOH) to provide product 3.82 g (96.0%) of (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-yl(2-(dimethylamino)-2-oxoethyl)carbamate as a light brown solid. LCMS-ESI (m/z) calculated for C19H25ClN6O6; 343.4. found 366.1 [M+Na]+, tR=3.16 min.

reactant | (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate | C(#N)C1=C2CC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H18N2O2
reactant | NaH | 34.8 mmol, 1.39 g | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylacetamide | 23.2 mmol, 2.82 g | ClCC(=O)N(C)C | C4H8ClNO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-yl(2-(dimethylamino)-2-oxoethyl)carbamate | 3.82 g, 96.0% | C(#N)C1=C2CC[C@@H](C2=CC=C1)N(C(OC(C)(C)C)=O)CC(=O)N(C)C | C19H25N3O3
